US07528136B2
b) 2-(4-{1-Benzyl-4-[(3-bromo-benzyl)-methyl-amino]-pyrrolidine-2-carbonyl}-piperazin-1-yl)-benzonitrile
To a stirring mixture of 1-benzyl-4-[(3-bromo-benzyl)-methyl-amino]-pyrrolidine-2-carboxylic acid (0.2 mmol), EDC (0.3 mmol) and HOBT (0.3 mmol) in 3 mL of dry DMF were added 2-piperazin-1-yl-benzonitrile (0.24 mmol) and NEt3 (0.6 mmol), and the reaction mixture was stirred overnight and subsequently subjected to preparative HPLC purification on reversed phase eluting with a acetonitrile/water (0.05% NEt3) gradient. 17.5 mg of title product was obtained in 15.2% yield as brown oil.

reactant | 1-benzyl-4-[(3-bromo-benzyl)-methyl-amino]-pyrrolidine-2-carboxylic acid | 0.2 mmol | C(C1=CC=CC=C1)N1C(CC(C1)N(C)CC1=CC(=CC=C1)Br)C(=O)O | C20H23BrN2O2
reactant | EDC | 0.3 mmol
reactant | HOBT | 0.3 mmol | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 2-piperazin-1-yl-benzonitrile | 0.24 mmol | N1(CCNCC1)C1=C(C#N)C=CC=C1 | C11H13N3
reactant | NEt3 | 0.6 mmol | CCN(CC)CC | C6H15N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 2-(4-{1-Benzyl-4-[(3-bromo-benzyl)-methyl-amino]-pyrrolidine-2-carbonyl}-piperazin-1-yl)-benzonitrile | 17.5 mg, 15.2% yield | C(C1=CC=CC=C1)N1C(CC(C1)N(C)CC1=CC(=CC=C1)Br)C(=O)N1CCN(CC1)C1=C(C#N)C=CC=C1 | C31H34BrN5O
